* File: LGCPX2.pex.netlist.pex
* Created: Mon Jun  5 11:47:51 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LGCPX2%D_VDD 1 4 8 12 16 20 46 47 48 49 50
c54 50 0 0.211838f
c55 49 0 0.210751f
c56 48 0 0.144716f
c57 47 0 0.166486f
c58 46 0 0.15202f
c59 40 0 0.0701213f
c60 35 0 0.0701213f
c61 33 0 0.0701213f
c62 20 0 0.279094f
c63 16 0 0.478168f
c64 12 0 0.278992f
c65 8 0 0.483091f
c66 4 0 0.404595f
c67 1 0 0.356031f
r68 39 50 0.17
r69 39 40 0.0120155
r70 36 49 0.306944
r71 34 48 0.17
r72 34 35 0.0120155
r73 32 47 0.17
r74 32 33 0.0120155
r75 29 46 0.17
r76 24 40 0.0329425
r77 20 40 0.0329425
r78 17 35 0.0329425
r79 13 33 0.0329425
r80 12 35 0.0329425
r81 8 33 0.0329425
r82 1 36 0.0120155
r83 1 16 0.0329425
r84 1 21 0.0329425
r85 1 29 0.0120155
r86 1 4 0.0329425
r87 1 9 0.0329425
r88 1 24 0.051
r89 1 20 0.1445
r90 1 21 0.1105
r91 1 16 0.221
r92 1 17 0.1955
r93 1 12 0.136
r94 1 13 0.119
r95 1 8 0.2125
r96 1 9 0.238
r97 1 4 0.2295
.ends

.subckt PM_LGCPX2%N$219 2 5 9 11 15 17 21 23 25 27 29 44 45 46 50 51 52 54 56 59
+ 68 69
c138 69 0 0.167699f
c139 68 0 0.15621f
c140 56 0 0.444434f
c141 54 0 0.0694536f
c142 52 0 0.0325329f
c143 51 0 0.158854f
c144 50 0 0.149038f
c145 46 0 0.103388f
c146 45 0 0.162072f
c147 44 0 0.0281758f
c148 42 0 0.0398649f
c149 41 0 0.0398649f
c150 29 0 0.279798f
c151 27 0 0.272947f
c152 25 0 0.0497033f
c153 23 0 0.0528604f
c154 21 0 0.689673f
c155 17 0 0.367446f
c156 15 0 0.621815f
c157 11 0 0.471878f
c158 9 0 0.524907f
c159 5 0 0.227281f
c160 2 0 0.108932f
r161 59 69 0.0875758
r162 55 68 15.2843
r163 54 56 0.0519666
r164 54 55 7
r165 52 56 1.52292
r166 50 65 15.2843
r167 49 52 0.0519666
r168 49 51 0.0519666
r169 49 50 7
r170 45 61 15.2843
r171 44 46 0.0519666
r172 44 45 7
r173 33 42 0.00935391
r174 33 51 0.396667
r175 31 41 0.00935391
r176 31 46 0.3825
r177 29 69 0.0181392
r178 28 42 0.0359928
r179 28 29 0.51
r180 27 42 0.0359928
r181 26 41 0.0359928
r182 26 27 0.51
r183 25 41 0.0359928
r184 24 36 0.0216719
r185 24 25 0.085
r186 19 21 208.333
r187 18 23 10.5861
r188 17 19 13.9682
r189 17 18 91.6667
r190 13 23 2.75115
r191 13 15 170.833
r192 11 23 10.5861
r193 11 68 156.25
r194 9 65 158.333
r195 5 61 50
r196 2 36 0.0425
.ends

.subckt PM_LGCPX2%D_GND 1 6 7 8 9 11 17 19 24 27 33 48 55
c54 55 0 0.436149f
c55 48 0 0.525457f
c56 34 0 0.0467475f
c57 33 0 0.368909f
c58 28 0 0.0701213f
c59 27 0 0.599583f
c60 25 0 0.0467475f
c61 24 0 0.395983f
c62 19 0 0.0897761f
c63 17 0 0.0922089f
c64 11 0 0.0818042f
c65 9 0 0.0700017f
c66 8 0 0.0617312f
c67 7 0 0.179632f
c68 6 0 0.0640254f
c69 1 0 0.0467475f
r70 33 34 0.0231002
r71 32 34 0.0231002
r72 27 28 0.0329425
r73 26 28 0.0329425
r74 24 25 0.0231002
r75 23 25 0.0231002
r76 18 19 0.184167
r77 16 34 0.0225187
r78 16 17 0.17
r79 12 28 0.0120155
r80 10 25 0.0225187
r81 10 11 0.155833
r82 9 19 0.0566888
r83 8 17 0.0519666
r84 7 12 0.146389
r85 6 11 0.0519666
r86 1 18 0.0225187
r87 1 48 0.0231002
r88 1 51 0.0231002
r89 1 55 0.119
r90 1 51 0.11475
r91 1 48 0.24225
r92 1 32 0.23375
r93 1 33 0.12325
r94 1 26 0.2125
r95 1 27 0.119
r96 1 23 0.13175
r97 1 24 0.22525
.ends

.subckt PM_LGCPX2%nose 2 5 11 12 14 17 18 19 21 23 26 28 31 33 36 43 48 49
c88 49 0 0.251613f
c89 48 0 0.59219f
c90 43 0 0.0766063f
c91 36 0 0.0443995f
c92 33 0 0.0251847f
c93 31 0 0.142918f
c94 28 0 0.0211684f
c95 26 0 0.144761f
c96 23 0 0.0294658f
c97 21 0 0.0313751f
c98 19 0 0.00793909f
c99 18 0 0.025447f
c100 17 0 0.0119299f
c101 14 0 0.0897034f
c102 12 0 0.135164f
c103 5 0 0.445451f
c104 2 0 0.074509f
r105 46 48 187.5
r106 43 53 0.0188889
r107 34 36 0.1275
r108 31 49 15.2843
r109 31 48 15.2843
r110 30 33 0.0519666
r111 30 31 7
r112 26 46 15.2843
r113 26 45 15.2843
r114 25 28 0.0519666
r115 25 26 7
r116 23 36 0.00499195
r117 23 41 0.085
r118 20 34 0.00499195
r119 20 21 0.1275
r120 18 53 0.0216719
r121 18 19 0.141667
r122 17 19 0.0474919
r123 16 17 0.141667
r124 14 16 0.0474919
r125 14 33 0.240833
r126 12 21 0.0474919
r127 12 28 0.3825
r128 11 49 45.8333
r129 5 45 112.5
r130 2 41 0.0519666
.ends

.subckt PM_LGCPX2%cn 2 5 7 8 10 11 13 19 24 27 28 29 35 37 40
c86 40 0 0.783974f
c87 37 0 0.107389f
c88 35 0 0.218884f
c89 29 0 0.0254278f
c90 28 0 0.111926f
c91 27 0 0.161057f
c92 24 0 0.0227824f
c93 19 0 0.0364925f
c94 11 0 0.500467f
c95 10 0 0.453213f
c96 8 0 0.0718002f
c97 7 0 0.171631f
c98 5 0 0.436648f
c99 2 0 0.160138f
r100 37 46 0.03825
r101 35 42 12.5
r102 34 35 7
r103 27 40 15.2843
r104 26 29 0.0141667
r105 26 28 0.0519666
r106 26 27 7
r107 24 28 0.453333
r108 21 24 0.0519666
r109 21 22 7
r110 19 46 0.025958
r111 18 29 0.0216719
r112 18 19 0.085
r113 14 42 6.3741
r114 14 40 256.25
r115 11 22 15.4653
r116 11 13 45.8333
r117 10 22 30.7358
r118 9 10 158.333
r119 7 9 13.9682
r120 7 8 29.1667
r121 3 8 13.9682
r122 3 5 125
r123 2 34 0.0989292
.ends

.subckt PM_LGCPX2%ci 2 3 7 11 13 15 17 20 22 24 25 26 28 30 32 37 42 45 47 55 58
+ 67 70 77 82 86
c130 86 0 0.0285852f
c131 82 0 0.232816f
c132 77 0 0.15717f
c133 70 0 0.16625f
c134 67 0 0.0848835f
c135 58 0 0.0721465f
c136 55 0 0.0183963f
c137 47 0 0.0617455f
c138 45 0 0.164705f
c139 42 0 0.0256548f
c140 37 0 0.0133087f
c141 32 0 0.104258f
c142 30 0 0.0902652f
c143 28 0 0.0856138f
c144 26 0 0.0530496f
c145 25 0 0.0406063f
c146 24 0 0.108187f
c147 22 0 0.0783288f
c148 20 0 0.251186f
c149 17 0 0.707688f
c150 13 0 0.241329f
c151 11 0 0.240223f
c152 7 0 0.65982f
c153 3 0 0.145035f
c154 2 0 0.0882135f
r155 67 86 0.0566888
r156 59 82 18.0556
r157 59 79 4.16667
r158 58 60 0.138211
r159 58 59 7
r160 56 58 0.0172764
r161 53 77 6.94444
r162 53 74 4.16667
r163 52 55 0.0519666
r164 52 53 7
r165 47 49 0.0779167
r166 45 72 15.2843
r167 44 46 0.0618332
r168 44 45 7
r169 40 70 15.2843
r170 39 42 0.0519666
r171 39 40 7
r172 36 61 0.0216719
r173 36 37 0.085
r174 34 86 0.085
r175 33 56 0.0135992
r176 32 37 0.0474919
r177 32 33 0.325833
r178 30 34 0.0474919
r179 30 55 0.255
r180 29 49 0.00499195
r181 28 60 0.0135992
r182 28 29 0.2975
r183 27 46 0.0272044
r184 26 47 0.00499195
r185 26 27 0.198333
r186 24 46 0.0724409
r187 24 25 0.113333
r188 22 25 0.0474919
r189 22 42 0.410833
r190 18 82 6.3741
r191 18 20 50
r192 17 77 6.3741
r193 16 79 6.3741
r194 16 17 245.833
r195 13 74 6.3741
r196 13 15 45.8333
r197 11 72 50
r198 5 7 220.833
r199 3 5 13.9682
r200 3 70 31.25
r201 2 61 0.0708333
.ends

.subckt PM_LGCPX2%GCLK 2 4 5 7 8 13 14 19
c37 14 0 0.15539f
c38 13 0 0.084308f
c39 8 0 0.0102031f
c40 7 0 0.18796f
c41 5 0 0.256987f
c42 4 0 0.0699742f
r43 13 14 0.0419068
r44 13 19 0.0744926
r45 13 14 0.0755556
r46 7 8 0.0678867
r47 5 7 0.517083
r48 4 19 0.0442605
r49 4 8 0.162917
r50 2 5 0.149347
.ends

.subckt PM_LGCPX2%nose2 2 3 5 8 10 13 14 20 28 29 31 38 39 46
c65 46 0 0.109884f
c66 39 0 0.158663f
c67 38 0 0.0739678f
c68 31 0 0.0593683f
c69 29 0 0.0347727f
c70 28 0 0.15517f
c71 20 0 0.0375163f
c72 19 0 0.0796907f
c73 14 0 0.155177f
c74 13 0 0.137239f
c75 10 0 0.0328147f
c76 8 0 0.272206f
c77 3 0 0.352786f
c78 2 0 0.113938f
r79 38 46 0.0566888
r80 30 31 0.155833
r81 28 42 15.2843
r82 27 29 0.0519666
r83 27 28 7
r84 24 27 0.0141667
r85 23 39 5.76037
r86 22 23 7
r87 20 22 0.0192308
r88 19 36 0.155833
r89 16 31 0.00499195
r90 16 46 0.347083
r91 14 19 0.0474919
r92 14 29 0.425
r93 13 30 0.00499195
r94 12 24 0.0216719
r95 12 13 0.559583
r96 11 20 0.0209436
r97 10 30 0.0425
r98 10 11 0.10625
r99 8 42 54.1667
r100 3 39 5.94182
r101 3 5 75
r102 2 36 0.0566888
.ends

.subckt PM_LGCPX2%E 3 7 10 13 17 19
c39 19 0 0.0500617f
c40 17 0 0.144515f
c41 13 0 0.139088f
c42 10 0 0.42163f
c43 7 0 0.576344f
c44 3 0 0.226268f
r45 17 19 7
r46 11 13 13.3333
r47 10 13 4.19369
r48 9 17 15.2843
r49 9 10 133.333
r50 5 17 15.2843
r51 5 7 164.583
r52 1 11 4.19369
r53 1 3 54.1667
.ends

.subckt PM_LGCPX2%CLK 3 7 13 17 22 23 25 26 31 33 34 38 40 41
c79 41 0 0.127953f
c80 40 0 0.66472f
c81 34 0 0.189698f
c82 33 0 0.0949041f
c83 31 0 0.0417089f
c84 26 0 0.179083f
c85 25 0 0.076873f
c86 23 0 0.0261939f
c87 22 0 0.372915f
c88 17 0 0.269708f
c89 13 0 0.427962f
c90 7 0 0.436952f
c91 3 0 0.86805f
r92 36 38 0.0412121
r93 34 43 6.94444
r94 33 35 0.0878553
r95 33 34 7
r96 29 41 4.16667
r97 29 40 15.2843
r98 28 31 0.0519666
r99 28 29 7
r100 26 35 0.0155436
r101 25 38 0.057989
r102 25 26 0.432083
r103 23 36 0.0181392
r104 23 31 0.10625
r105 22 40 216.667
r106 21 22 12.215
r107 19 21 30.4348
r108 15 43 6.3741
r109 15 17 54.1667
r110 11 41 6.3741
r111 11 13 122.917
r112 5 21 9.32053
r113 5 7 112.5
r114 1 19 9.32053
r115 1 3 256.25
.ends

