* File: LGCPX3.pex.netlist.pex
* Created: Mon Jun  5 11:48:48 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LGCPX3%D_VDD 1 4 8 12 17 20 24 51 52 53 54 55
c56 55 0 0.197726f
c57 54 0 0.157961f
c58 53 0 0.149235f
c59 52 0 0.173065f
c60 51 0 0.145249f
c61 45 0 0.0701213f
c62 40 0 0.0701213f
c63 38 0 0.0701213f
c64 24 0 0.275689f
c65 20 0 0.282311f
c66 12 0 0.509275f
c67 8 0 0.292658f
c68 4 0 0.423549f
c69 1 0 0.640102f
r70 44 55 0.226667
r71 44 45 0.0120155
r72 41 54 0.17
r73 39 53 0.17
r74 39 40 0.0120155
r75 37 52 0.17
r76 37 38 0.0120155
r77 34 51 0.17
r78 28 45 0.0329425
r79 24 45 0.0329425
r80 21 40 0.0329425
r81 13 38 0.0329425
r82 12 40 0.0329425
r83 8 38 0.0329425
r84 1 41 0.0120155
r85 1 20 0.0329425
r86 1 25 0.0329425
r87 1 34 0.0120155
r88 1 4 0.0329425
r89 1 9 0.0329425
r90 1 28 0.11475
r91 1 24 0.08925
r92 1 25 0.16575
r93 1 20 0.13175
r94 1 21 0.12325
r95 1 12 0.08075
r96 1 17 0.02975
r97 1 17 0.25075
r98 1 13 0.08925
r99 1 8 0.11475
r100 1 9 0.14025
r101 1 4 0.15725
.ends

.subckt PM_LGCPX3%ci 2 5 7 9 10 11 14 18 20 22 24 26 27 28 31 32 34 48 50 53 55
+ 57 60 62 67 71 75
c127 75 0 0.042863f
c128 71 0 0.229729f
c129 67 0 0.20931f
c130 62 0 0.11029f
c131 60 0 0.152718f
c132 57 0 0.0550959f
c133 55 0 0.0544677f
c134 53 0 0.0156099f
c135 50 0 0.043928f
c136 48 0 0.0415191f
c137 34 0 0.0654368f
c138 32 0 0.082563f
c139 31 0 0.048078f
c140 28 0 0.0248313f
c141 27 0 0.027734f
c142 26 0 0.0681734f
c143 24 0 0.0458835f
c144 22 0 0.229787f
c145 20 0 0.342387f
c146 18 0 0.286289f
c147 14 0 0.377244f
c148 11 0 0.203918f
c149 10 0 0.447499f
c150 7 0 0.240024f
c151 5 0 0.369186f
c152 2 0 0.10017f
r153 62 75 0.0566888
r154 60 71 15.2843
r155 59 60 7
r156 57 59 0.0878553
r157 53 55 0.0519666
r158 53 54 7
r159 49 67 11.1111
r160 48 50 0.0519666
r161 48 49 7
r162 45 46 7
r163 43 45 0.029755
r164 41 42 0.0535714
r165 35 57 0.0155436
r166 35 55 0.269167
r167 34 42 0.0381296
r168 34 50 0.155833
r169 32 42 0.0122441
r170 31 45 0.0523728
r171 31 32 0.538333
r172 29 41 0.0122441
r173 29 75 0.085
r174 27 43 0.0196845
r175 27 28 0.134583
r176 26 28 0.0474919
r177 26 40 0.23375
r178 22 46 29.1667
r179 22 23 7.71265
r180 18 54 29.9847
r181 18 20 93.75
r182 17 24 10.5861
r183 17 71 89.5833
r184 12 24 2.75115
r185 12 14 112.5
r186 11 23 26.8818
r187 10 24 10.5861
r188 10 11 168.75
r189 7 67 6.3741
r190 7 9 45.8333
r191 3 23 8.57164
r192 3 5 85.4167
r193 2 40 0.0519666
.ends

.subckt PM_LGCPX3%D_GND 1 6 7 8 9 27 30 31 36 39 46
c51 39 0 0.50818f
c52 36 0 0.302374f
c53 31 0 0.125152f
c54 30 0 0.600461f
c55 28 0 0.0701213f
c56 27 0 0.321683f
c57 9 0 0.152125f
c58 8 0 0.139165f
c59 7 0 0.154482f
c60 6 0 0.154539f
c61 1 0 0.708826f
r62 39 46 0.01275
r63 30 31 0.0329425
r64 29 31 0.0329425
r65 27 28 0.0329425
r66 26 28 0.0329425
r67 22 31 0.0120155
r68 10 28 0.0120155
r69 9 22 0.160556
r70 8 18 0.146389
r71 7 14 0.146389
r72 6 10 0.146389
r73 1 18 0.0120155
r74 1 39 0.0329425
r75 1 47 0.0329425
r76 1 14 0.0120155
r77 1 36 0.0329425
r78 1 40 0.0329425
r79 1 29 0.08075
r80 1 30 0.08925
r81 1 47 0.1445
r82 1 46 0.14025
r83 1 40 0.1445
r84 1 36 0.153
r85 1 26 0.119
r86 1 27 0.085
.ends

.subckt PM_LGCPX3%cn 2 3 5 7 11 16 23 25 27 30 32 34 37 40
c95 40 0 0.158959f
c96 37 0 0.0786762f
c97 34 0 0.0556946f
c98 32 0 0.015614f
c99 30 0 0.246846f
c100 27 0 0.0630152f
c101 25 0 0.158005f
c102 23 0 0.0332098f
c103 16 0 0.117354f
c104 11 0 0.176873f
c105 7 0 0.388123f
c106 5 0 0.242467f
c107 3 0 0.328513f
c108 2 0 0.106942f
r109 33 41 3.27225
r110 32 34 0.0519666
r111 32 33 7
r112 30 44 20.1613
r113 29 30 7
r114 27 29 0.119
r115 24 40 15.2843
r116 23 26 0.0519666
r117 23 25 0.0519666
r118 23 24 7
r119 17 27 0.0142585
r120 17 34 0.432083
r121 16 37 0.0566888
r122 16 26 0.347083
r123 13 21 0.0164797
r124 13 25 0.644583
r125 9 44 6.76586
r126 9 11 37.5
r127 5 33 24.1913
r128 5 7 106.25
r129 3 41 9.27823
r130 3 40 118.75
r131 2 21 0.0697601
.ends

.subckt PM_LGCPX3%EN_latched 2 5 9 11 13 14 15 16 21 23 26 27 29 31 32 33 36 38
+ 41 44 45
c122 45 0 0.191156f
c123 44 0 0.247434f
c124 41 0 0.0980236f
c125 38 0 0.0450385f
c126 36 0 0.0270371f
c127 33 0 0.107924f
c128 32 0 0.167872f
c129 31 0 0.0244842f
c130 29 0 0.0500969f
c131 27 0 0.0540615f
c132 26 0 0.0275843f
c133 23 0 0.00918032f
c134 21 0 0.00430445f
c135 16 0 0.0251903f
c136 15 0 0.00733078f
c137 14 0 0.058693f
c138 13 0 0.00617317f
c139 11 0 0.106393f
c140 5 0 0.252058f
r141 37 45 13.6364
r142 36 38 0.0519666
r143 36 37 7
r144 32 44 15.2843
r145 31 33 0.0519666
r146 31 32 7
r147 28 41 0.103889
r148 28 29 0.0004726
r149 23 38 0.347083
r150 21 23 0.0474919
r151 20 21 0.0920833
r152 19 29 0.0497087
r153 19 33 0.4675
r154 16 20 0.0474919
r155 16 27 0.1275
r156 14 29 0.0497087
r157 14 15 0.23375
r158 13 26 0.17
r159 11 15 0.0474919
r160 10 13 0.0474919
r161 10 11 0.899583
r162 9 44 45.8333
r163 3 45 5.33506
r164 3 5 50
r165 2 27 0.0519666
r166 2 26 0.0519666
.ends

.subckt PM_LGCPX3%Enable 2 5 9 13 15 17 21 25 29 30 32 35 37 40 43 48 49 55 56
+ 57 60 65
c114 65 0 0.115839f
c115 60 0 0.0983188f
c116 57 0 0.0798335f
c117 56 0 0.406598f
c118 55 0 0.0620571f
c119 53 0 0.0231237f
c120 49 0 0.0218131f
c121 48 0 0.136555f
c122 43 0 0.15553f
c123 40 0 0.0681568f
c124 37 0 0.0864442f
c125 35 0 0.103181f
c126 32 0 0.0625805f
c127 30 0 0.117703f
c128 29 0 0.0894044f
c129 25 0 0.172211f
c130 21 0 0.333455f
c131 17 0 0.255147f
c132 15 0 0.282919f
c133 13 0 0.409192f
c134 9 0 0.354277f
c135 5 0 0.185505f
c136 2 0 0.103035f
r137 60 72 0.0533676
r138 56 69 46.4005
r139 55 57 0.0519666
r140 55 56 7
r141 48 66 4.16667
r142 48 65 15.2843
r143 47 49 0.0519666
r144 47 48 7
r145 44 47 0.0141667
r146 43 63 15.2843
r147 42 43 7
r148 40 42 0.0112533
r149 39 53 0.0359928
r150 39 57 0.269167
r151 36 52 0.0158582
r152 36 37 0.2975
r153 35 72 0.0205746
r154 34 53 0.00935391
r155 34 35 0.2975
r156 32 37 0.0474919
r157 32 49 0.2975
r158 31 40 0.0310755
r159 30 53 0.0359928
r160 30 31 0.311667
r161 29 40 0.0749755
r162 28 44 0.0216719
r163 28 29 0.290417
r164 23 25 39.5833
r165 19 69 6.22724
r166 19 21 75
r167 15 27 30.9616
r168 15 17 58.3333
r169 14 66 6.3741
r170 13 27 10.1401
r171 13 14 145.833
r172 11 25 1.46822
r173 11 65 37.5
r174 9 63 95.8333
r175 3 23 1.46822
r176 3 5 37.5
r177 2 52 0.0817308
.ends

.subckt PM_LGCPX3%NAND_OUT 2 5 7 9 12 13 14 18 20 30 32 33 35 36 39 41 44 51
c63 51 0 0.0235164f
c64 44 0 0.068088f
c65 41 0 0.0664358f
c66 39 0 0.027739f
c67 36 0 0.164937f
c68 35 0 0.0424551f
c69 33 0 0.0331934f
c70 32 0 0.0115794f
c71 30 0 0.0332261f
c72 21 0 0.043124f
c73 20 0 0.035735f
c74 18 0 0.0725114f
c75 14 0 0.00912765f
c76 13 0 0.0454752f
c77 12 0 0.0445485f
c78 9 0 0.39786f
c79 7 0 0.308735f
c80 5 0 0.257741f
c81 2 0 0.0852615f
r82 44 51 0.0566888
r83 39 41 0.0519666
r84 39 40 7
r85 36 46 15.2843
r86 35 37 0.029755
r87 35 36 7
r88 28 30 0.0708333
r89 24 33 0.00935391
r90 24 41 0.141667
r91 22 32 0.0359928
r92 21 37 0.0196845
r93 21 22 0.113333
r94 20 30 0.00499195
r95 19 33 0.0359928
r96 19 20 0.240833
r97 18 33 0.0359928
r98 17 32 0.00935391
r99 17 18 0.347083
r100 15 28 0.00499195
r101 15 51 0.085
r102 13 32 0.0359928
r103 13 14 0.226667
r104 12 14 0.0474919
r105 11 27 0.024295
r106 11 12 0.14875
r107 7 40 26.4217
r108 7 9 92.7083
r109 5 46 50
r110 2 27 0.0221354
.ends

.subckt PM_LGCPX3%GCLK 2 11 12 14 15 17
c15 17 0 0.121695f
c16 15 0 0.138415f
c17 14 0 0.0425085f
c18 12 0 0.334916f
c19 11 0 0.0915868f
c20 2 0 0.128128f
r21 14 17 0.0377778
r22 14 15 0.0519666
r23 13 15 0.269167
r24 11 13 0.0519666
r25 11 12 0.0519666
r26 3 9 0.0181392
r27 3 12 0.566667
r28 2 9 0.0463636
.ends

.subckt PM_LGCPX3%CLK 2 5 9 11 12 14 15 16 17 19 22 26 31 34 37
c107 37 0 0.116231f
c108 31 0 0.224326f
c109 26 0 0.158053f
c110 22 0 0.496724f
c111 17 0 0.234194f
c112 16 0 0.23755f
c113 15 0 0.2291f
c114 14 0 0.299889f
c115 12 0 0.642581f
c116 11 0 1.45409f
c117 9 0 0.567027f
c118 5 0 0.248661f
c119 2 0 0.256808f
r120 41 42 31.2752
r121 38 41 6.05327
r122 37 38 7
r123 34 37 0.0377778
r124 29 31 45.8333
r125 24 26 25
r126 20 22 145.833
r127 17 31 1.46822
r128 17 19 45.8333
r129 16 28 24.5037
r130 15 20 13.9682
r131 15 16 54.1667
r132 14 29 1.46822
r133 13 28 6.93183
r134 13 14 95.8333
r135 12 42 28.8635
r136 11 28 24.5037
r137 11 12 537.5
r138 7 42 10.2293
r139 7 9 154.167
r140 3 26 1.46822
r141 3 5 50
r142 2 41 10.2293
r143 1 24 1.46822
r144 1 2 87.5
.ends

.subckt PM_LGCPX3%E 3 5 7 8 14 19 20 23 24 25
c46 25 0 0.053554f
c47 24 0 0.40433f
c48 23 0 0.0101015f
c49 20 0 0.0175576f
c50 19 0 0.0166f
c51 14 0 0.012978f
c52 8 0 0.27892f
c53 5 0 0.194507f
c54 3 0 0.204554f
r55 24 30 44.1501
r56 23 25 0.0519666
r57 23 24 7
r58 21 25 0.36125
r59 19 21 0.0519666
r60 19 20 0.0519666
r61 17 20 0.177083
r62 14 17 0.0519666
r63 14 15 7
r64 8 15 20.8333
r65 5 30 6.45346
r66 5 7 41.6667
r67 1 8 14.7074
r68 1 3 50
.ends

