* File: LOGIC0.pex.netlist.pex
* Created: Thu Jun 22 09:01:41 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LOGIC0%D_VDD 1 4 8 11 15 24 28
c4 24 0 0.350116f
c5 11 0 0.802906f
c6 8 0 0.189732f
c7 4 0 0.584093f
c8 1 0 0.345435f
r9 20 24 0.288056
r10 19 24 0.108611
r11 13 15 0.051
r12 11 28 23.3696
r13 10 11 7
r14 8 19 0.0474919
r15 8 10 0.155833
r16 1 20 0.0120155
r17 1 4 0.0329425
r18 1 13 0.0329425
r19 1 15 0.0425
r20 1 4 0.238
.ends

.subckt PM_LOGIC0%D_GND 2 5 12 17
c6 12 0 0.741829f
c7 5 0 0.125746f
c8 3 0 0.237781f
c9 2 0 0.188508f
r10 12 17 0.0232206
r11 12 17 0.0595
r12 3 17 0.0244427
r13 3 5 0.0991667
r14 2 5 7
.ends

.subckt PM_LOGIC0%Q 1 4 9 13
c8 13 0 0.504218f
c9 9 0 0.259549f
c10 4 0 0.154607f
c11 1 0 0.188068f
r12 11 13 0.349444
r13 10 11 0.0142585
r14 9 10 0.034
r15 7 9 0.034
r16 2 7 0.0142585
r17 2 4 0.122778
r18 1 4 7
.ends

.subckt PM_LOGIC0%noxref_4 1 2 4
c6 4 0 0.185039f
c7 2 0 0.177346f
c8 1 0 0.179123f
r9 4 8 0.141667
r10 2 8 7
r11 1 4 7
.ends

.subckt PM_LOGIC0%noxref_5 1 2 4
c4 4 0 0.213496f
c5 2 0 0.182556f
c6 1 0 0.177346f
r7 4 8 0.141667
r8 2 8 7
r9 1 4 7
.ends

