* File: LOGIC1.pex.netlist.pex
* Created: Thu Jun 22 09:02:57 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LOGIC1%D_VDD 5 8 13
c6 13 0 0.73046f
c7 8 0 0.131519f
c8 6 0 0.249754f
c9 5 0 0.188459f
r10 11 13 0.0232504
r11 11 13 0.16575
r12 6 13 0.0244129
r13 6 8 0.103889
r14 5 8 7
.ends

.subckt PM_LOGIC1%D_GND 1 3 6 7 12 16
c3 23 0 0.321325f
c4 13 0 0.319845f
c5 7 0 0.815864f
c6 6 0 0.0649319f
c7 4 0 0.390579f
c8 3 0 0.318779f
r9 12 13 0.0533226
r10 7 16 36.8056
r11 6 7 7
r12 4 6 0.108611
r13 3 12 0.02975
r14 1 4 0.0459929
r15 1 23 0.0221447
r16 1 23 0.0580833
r17 1 3 0.00425
r18 1 13 0.13175
.ends

.subckt PM_LOGIC1%Q 2 3 4 12 16
c7 17 0 0.224884f
c8 16 0 0.114019f
c9 12 0 0.148835f
c10 4 0 0.420174f
c11 3 0 0.186693f
r12 16 18 0.0392853
r13 16 17 0.0392853
r14 12 18 0.118056
r15 8 17 0.184167
r16 4 8 0.0474919
r17 3 12 7
r18 2 4 0.207778
.ends

.subckt PM_LOGIC1%noxref_4 1 2 4
c4 4 0 0.213496f
c5 2 0 0.177346f
c6 1 0 0.182556f
r7 4 8 0.141667
r8 2 8 7
r9 1 4 7
.ends

.subckt PM_LOGIC1%noxref_5 1 2 4
c6 4 0 0.185252f
c7 2 0 0.179123f
c8 1 0 0.177346f
r9 4 8 0.141667
r10 2 8 7
r11 1 4 7
.ends

